US05955607
d) 4-Amino-6-benzyloxy-2,2-dimethylchroman
30 g of 6-benzyloxy-2,2-dimethylchroman-4-one oxime were dissolved in 900 ml of THF/methanol (1:1), treated with 25 ml of aqueous ammonia and hydrogenated in a shaking duck using Raney Ni. The catalyst was then filtered off with suction, the filtrate was concentrated in vacuo, the residue was dissolved in EA, dried and concentrated, and the residue was crystallized using petroleum ether, 22.9 g, m.p. 86-88° C.

reactant | 6-benzyloxy-2,2-dimethylchroman-4-one oxime | 30 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)=NO | C18H19NO3
reactant | ammonia | 25 ml | N | H3N
solvent | THF methanol | 900 ml | C1CCOC1.CO
catalyst | Ni | [Ni] | Ni
product | 4-Amino-6-benzyloxy-2,2-dimethylchroman | NC1CC(OC2=CC=C(C=C12)OCC1=CC=CC=C1)(C)C | C18H21NO2
